US08871767B2
1-(4-methyl-3-nitrophenyl)propan-1-one
A solution of fuming nitric acid (100 mL) at 0° C. is added dropwise 1-p-tolylpropan-1-one (Sigma-Aldrich, 121 mmol) while maintaining the reaction temperature below 10° C. The reaction mixture is stirred at 0° C. for 1 hour then poured into excess ice water. The mixture is placed in a freezer overnight and precipitate collected by filtration, washed with ice water, and taken up in CH2Cl2. The organic solution is washed with sat. aqueous NaHCO3 (100 mL), organic layer is collected, dried over Na2SO4, filtered and concentrated to dryness. The crude is purified via chromatography (hexanes to EtOAc) to afford the title compound (14.8 g, 63%) as a light yellow solid: Rf 0.5 (1:4 EtOAc:hexanes).

reactant | 1-p-tolylpropan-1-one | 121 mmol | C1(=CC=C(C=C1)C(CC)=O)C | C10H12O
reactant | nitric acid | 100 mL | [N+](=O)(O)[O-] | HNO3
product | 1-(4-methyl-3-nitrophenyl)propan-1-one | 14.8 g, 63% | CC1=C(C=C(C=C1)C(CC)=O)[N+](=O)[O-] | C10H11NO3
